US07932254B2
2,2-Dimethyl-1-[2-(1-piperidin-4-yl-1H-indol-6-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one.
Substituting 1-[2-(1H-indol-6-yl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one for 1-[2-(1H-indol-5-yl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one and 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester for 2-chloromethylpyridine hydrochloride. MP=201-207 C., (M+H)+=402.

reactant | 1-[2-(1H-indol-5-yl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | N1C=CC2=CC(=CC=C12)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C25H32N4O2Si
reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | 2-chloromethylpyridine hydrochloride | Cl.ClCC1=NC=CC=C1
product | 2,2-Dimethyl-1-[2-(1-piperidin-4-yl-1H-indol-6-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C1C=CN(C1=C2)C2CCNCC2)(C)C | C24H27N5O
